US06306854B1
2-(4-(2-(Phenylmethyloxycarbonylamino)ethyl)phenoxy)-2-methylbutanoic Acid
A solution of 4-(2-(phenylmethyloxycarbonylamino)ethyl)phenol (5.74 g; 21.16 mmole) in 2-butanone (17 mL) and chloroform (6 g) was added dropwise to a mixture of sodium hydroxide (9.0 g; 225 mmole) and 2-butanone (67 mL) whilst keeping the reaction temperature below 30° C. The mixture was allowed to stir at 30° C. for 4 h. Ether (100 mL) was added and the resultant solid was collected by filtration and washed with ether (100 mL). The solid was dissolved in water (70 mL) and any residual ether removed by evaporation. 1N Hydrochloric acid was added to adjust the pH to 1, and the resulting oil was extracted with dichloromethane (3×50 mL). The combined extracts were dried (Na2SO4) and evaporated to afford a yellow oil (3.82 g; 49%).

reactant | 4-(2-(phenylmethyloxycarbonylamino)ethyl)phenol | 21.16 mmole, 5.74 g | C1(=CC=CC=C1)COC(=O)NCCC1=CC=C(C=C1)O | C16H17NO3
reactant | chloroform | 6 g | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 225 mmole, 9.0 g | [OH-].[Na+]
reactant | Ether | 100 mL | CCOCC | C4H10O
reactant | 2-butanone | 17 mL | CC(CC)=O | C4H8O
reactant | 2-butanone | 67 mL | CC(CC)=O | C4H8O
product | 2-(4-(2-(Phenylmethyloxycarbonylamino)ethyl)phenoxy)-2-methylbutanoic Acid | C1(=CC=CC=C1)COC(=O)NCCC1=CC=C(OC(C(=O)O)(CC)C)C=C1 | C21H25NO5
